US07666864B2
To a solution of 4-bromo-2-pyridylmethanol (3.38 g, 0.016 mol) in CH2Cl2 (210 mL) was slowly added SOCl2 (21 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 20 h, then satd. NaHCO3 was added. The organic layer was washed with brine, dried (MgSO4), and concentrated to give crude 4-bromo-2-(chloromethyl)pyridine (2.93 g, 79%) as a yellow oil. APCI MS m/z 205.7, 207.7 (M+H). 1H NMR (400 MHz, (CD3)2SO) δ 8.47 (d, J=5.3 Hz, 1H), 7.68 (d, J=1.7 Hz, 1H), 7.42 (dd, J=5.3, 1.75 Hz, 1H), 4.64 (s, 2H).

reactant | 4-bromo-2-pyridylmethanol | 0.016 mol, 3.38 g | BrC1=CC(=NC=C1)CO | C6H6BrNO
reactant | SOCl2 | 21 mL | O=S(Cl)Cl | Cl2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 210 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-(chloromethyl)pyridine | 2.93 g, 79% | BrC1=CC(=NC=C1)CCl | C6H5BrClN
